US07863314B2
B. 5-Amino-1-(5-cyclopropylcarbamoyl-2-methyl-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester
To a solution of 5-amino-1-(5-carboxy-2-methyl-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester (47 mg, 0.16 mmol, 1.0 eq), EDCI (62 mg, 0.32 mmol, 2.0 eq), HOBt (44 mg, 0.32 mmol, 2.0 eq), and diisopropylethyl amine (119 μL, 0.32 mmol, 2.0 eq) in DMF (5 mL) which had been stirred at RT for 15 min was added cyclopropylamine (23 μL, 0.32 mmol, 2.0 eq). After stirring overnight, the solution was diluted with EtOAc and water and the organic layer was washed with water and brine, dried (Na2SO4) and concentrated. The crude residue was purified by flash chromatography on silica gel eluted with 8/2 EtOAc/hexanes to provide the product as a colorless oil (42 mg, 79%). HPLC (4 minute 10-95 gradient) tR 1.84 min; MS m/z 329.09 [M+H]+; 1H NMR (CD3OD), δ 7.96 (s, 1 H, NH), 7.88 (d, J=7.9 Hz, 1 H), 7.78 (s, 1 H), 7.75 (s, 1 H), 7.50 (d, J=8.0 Hz, 1 H), 4.28 (q, J=7.1 Hz, 2 H), 2.83 (m, 1 H), 2.16 (s, 3 H), 1.35 (d, J=7.0 Hz, 3 H), 0.78 (dd, J=12.3, 7.0 Hz, 2 H), 0.63 (dd, J=7.0, 4.5 Hz, 2 H) ppm; 13C NMR (CD3OD), δ 170.1, 165.8, 152.3, 142.1, 141.8, 137.2, 134.6, 132.8, 130.0, 128.2, 128.1, 95.8, 60.8, 24.1, 17.6, 14.9, 6.6 ppm.

reactant | 5-amino-1-(5-carboxy-2-methyl-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 0.16 mmol, 47 mg, 1.0 eq | C(C)OC(=O)C=1C=NN(C1N)C1=C(C=CC(=C1)C(=O)O)C | C14H15N3O4
reactant | EDCI | 0.32 mmol, 62 mg, 2.0 eq | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.32 mmol, 44 mg, 2.0 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethyl amine | 0.32 mmol, 119 μL, 2.0 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cyclopropylamine | 0.32 mmol, 23 μL, 2.0 eq | C1(CC1)N | C3H7N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 5-Amino-1-(5-cyclopropylcarbamoyl-2-methyl-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 42 mg, 79% | C(C)OC(=O)C=1C=NN(C1N)C1=C(C=CC(=C1)C(NC1CC1)=O)C | C17H20N4O3
